Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
linezolid / Bactrim
 
Attending: ___.
 
Chief Complaint:
Fever

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo woman s/p ___ ___, not on immunosuppressants but 
with recent leukopenia thought possibly due to benzodiazepine or 
acyclovir ___ after stopping acyclovir), now 
presenting with fever (reported 102.8 at home this morning) and 
malaise x few months.  She denies cough, SOB, dyspnea on 
exertion, abdominal pain, flank pain, dysuria. She actually 
feels fairly well and wants to go home soon.
.
In the ED T 100.6, BP 146/55, 20, 97%RA, high normal WBC w/ L 
shift without bandemia.  UA showed mild WBC, CXR was concerning 
for possible early pneumonia. She was given Ceftazidime after 
BCx were done.  UCx was not sent.  Was described as being in no 
distress and eating ___ food with her husband in the ER.
.
Other ROS: Urinary retention related to neurogenic bladder but 
able to go on her own at home (has not been straight cath). 
Otherwise negative in 13 pt detail system review
 
Past Medical History:
-Marginal zone lymphoma with aggressive features, diagnosed in 
___, treated with bendamustine and then EPOCH+R, and then 
ibriumomab and ___ ___. Her ___ course has 
been complicated by pneumonitis,  treated with prednisone, and a 
recent admission for pneumonia, s/p course of levofloxacin and 
cellulitis
- LCIS in ___ and DCIS on the right in ___, status post 
excision and radiation therapy. 
- Multiple sclerosis for over ___ years. 
- Neurogenic bladder secondary to multiple sclerosis. 
- Osteopenia. 
- Cervical spondylosis 
 
Social History:
___
Family History:
Grandmother with diabetes. 
 
Physical Exam:
T 99.5  P 70 BP 157/62 RR 18 O2Sat: 100 RA  
GENERAL: alert, pleasant, sarcastic  
Eyes: NC/AT, PERRL, EOMI, no scleral icterus noted  
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, no JVD  
Respiratory: R basilar fine rales, otherwise clear without R/R/W 
 
Cardiovascular: Reg, S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Skin: no rashes or lesions noted. No pressure ulcer  
Extremities: ___ pitting edema bilaterally (chronic)
Lymphatics/Heme/Immun: No cervical, supraclavicular 
lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: ___ intact  
Psychiatric: pleasant, mildly sarcastic
.
Discharge Exam:
AVSS
Resp: CTAB without focal wheezes, rales rhonchi or egophany. 

 
Pertinent Results:
___ 03:00PM URINE  ___ SP ___
___ 03:00PM URINE  ___ 
___ 
___
___ 03:00PM URINE  ___ 
___
___ 03:00PM URINE  ___
___ 02:39PM   ___
___ 02:20PM   UREA ___ 
___ TOTAL ___ ANION ___
___ 02:20PM   ___ 
___
___ 02:20PM   ___ 
___
___ 02:20PM   PLT ___
___ 02:00PM   ___ 
___
___ 02:00PM   ___ 
___
___ 02:00PM   PLT ___

CXR:
PA and lateral views of the chest were obtained. A new opacity 
in the left mid lung on the frontal view is worrisome for 
pneumonia. There is no other consolidation, pleural effusion or 
pneumothorax. Cardiac and 
mediastinal silhouettes and hilar contours are normal. A right 
___ 
ends in the region of the cavoatrial junction, unchanged. No 
acute osseous 
abnormality is identified. 
  
IMPRESSION: Left mid lung opacity is worrisome for developing 
pneumonia. 
.
Urine Cx: Pending at discharge.
- On ___ UCx was finalized as Enterococcus Gallinarum
 
Brief Hospital Course:
___ s/p ___ c/b ___ pneumonia, h/o MS 
with neurogenic bladder, VRE UTsI, that was admitted with fever 
likely early CAP and noted to have anemia of chronic 
inflammation and diagnosed with Enterococcal Gallinarum UTI 
following discharge.
.
ACTIVE ISSUES: 
# ?Early Community Acquired PNA: Patient presented with fever to 
103. CXR revealed likely left upper lobe (inferior segment) 
pneumonia although pt without cough, SOB or sputum production. 
The patient received a dose of Ceftazidine while in the ED and a 
dose of levaquin on the floor. This medication was dosed q48. 
The patient was discharged with two additional doses of PO 
Levaquin.
- The patient should receive a ___ CXR in 6 weeks to check 
for resolution of left sided infiltrate.

# Enterococcal Gallinarum UTI: The pt presented with a WBC of 9 
on urinary microscopy. Pt has long hx of urinary retention and 
incontinence secondary to MS. ___ pH of 8.0. UCx grew 
amoxacillin sensitive Enterococcal Gallinarum following d/c. 
.
# Anemia of Chronic Inflammation: The patient presented with a 
Hct of 33. This decreased to 27 with IVF over 24hrs. There were 
no clinical signs of bleed. Hemolysis labs were checked and were 
negative. On ___, 2 days after d/c the patients Hct was 
rechecked and found to be 30. 

CHRONIC ISSUES: 
# Multiple Sclerosis, chronic: The patient was continued on 
Lyrica.
.
# Urinary retention w/ neurogenic bladder: No interventions 
while in house. UTI as above.
.
# ___ edema: The pt has a history of bilateral ___ edema (L 
slightly >R) is at baseline per pt and her husband. She has had 
LLE U/S in ___ with no DVT.
.
# DVT proph: SC heparin, VRE precautions

TRANSITIONAL INFORMATION
# CODE: FULL
PCP communication - emailed
The patient was called at home on ___ following finalization 
of her urinary culture. The patient stated that she felt well 
and had been started on Amoxacillin the previous day. This 
information was emailed to the patients ___ NP and 
Primary Oncologist.
 
Medications on Admission:
___ FR STRAIGHT CATH 6 INS APOGEE -   - use as directed ___ times
daily or prn Dx: Neruogenic bladder 596.6 r/t Multiple Sclerosis 
(NOT USING)
BACLOFEN - 10 mg Tablet - 3 Tablet(s) by mouth three times a day
BUPROPION HCL -  (Prescribed by Other Provider) - 75 mg Tablet -
1 Tablet(s) by mouth twice a day
CLONAZEPAM -  (Prescribed by Other Provider) - 0.5 mg Tablet -
one half Tablet(s) by mouth at bedtime
LACTULOSE - 10 gram/15 mL Solution - 30 mls by mouth two to 
three
times a day as needed for constipation
PENTAMIDINE [NEBUPENT] -  (Prescribed by Other Provider) - 300 
mg
Recon Soln - 300 mg(s) inhaled every month for 6 months Diluted
in 6 ml sterile water administered via aerosol.  Please
administer 2 puffs of albuterol prior to treatment as needed.
PREGABALIN [LYRICA] -  (patient increasing as directed) - 25 mg
Capsule - 5 (Five) Capsule(s) by mouth three times a day.  Pt to
increase dose as directed.  Current dose is ___
TINEACIDE -  (Prescribed by Other Provider: podiatrist) -   -
TRAZODONE -  (Prescribed by Other Provider) - 50 mg Tablet - 1
Tablet(s) by mouth at bedtime
 
Medications - OTC
CALCIUM CITRATE -  (150mg 3 tabs BID) - Dosage uncertain
CHOLECALCIFEROL (VITAMIN D3) -  (Prescribed by Other Provider) -
1,000 unit Tablet, Chewable - one Tablet(s) by mouth once a day
DOCUSATE SODIUM [COLACE] -  (Prescribed by Other Provider) -
Dosage uncertain
GLUCOSAMINE SULFATE [GLUCOSAMINE] -  (OTC) - 500 mg Tablet - 3
(Three) Tablet(s) by mouth once a day
GLYCERIN (ADULT) -  (OTC) - Dosage uncertain

 
Discharge Medications:
1. bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. baclofen 10 mg Tablet Sig: Three (3) Tablet PO TID (3 times a 
day).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
5. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q48H (every 
48 hours) for 5 days: Take 1 pill the evening of (___) and 1 
pill the evening of (___).
Disp:*2 Tablet(s)* Refills:*0*
6. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
7. pregabalin 75 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
8. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. pregabalin 25 mg Capsule Sig: Five (5) Capsule PO Q NOON, AND 
EVENING ().  
10. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily) as needed for constipation.  
11. Glucosamine 500 mg Tablet Sig: One (1) Tablet PO three times 
a day.  
12. Calcium Citrate + ___ Tablet Sig: One (1) Tablet 
PO twice a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- Community Acquired Pneumonia
- Normocytic Anemia
- Pyuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with fever and found to have a 
pneumonia for which you were given antibiotics. This antibiotic 
is taken every 48hrs so you are due a dose on ___ 
and ___. Please continue to take all of your other 
medications as directed.
.
You were also noted to have a low red blood cell level. This 
remained stable during your hospitalization. It is important 
that you get this rechecked on ___. 
 
Followup Instructions:
___